US08685980B2
Following Buchwald Method B, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (50 mg, 0.17 mmol) and 4-(6-amino-pyridin-3-yl)-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (58 mg, 0.15 mmol) gave 7-cyclopentyl-2-[5-(3,3-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (20 mg, 25%). MS (ESI) m/z 463.3 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.17 mmol, 50 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 4-(6-amino-pyridin-3-yl)-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.15 mmol, 58 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)N)(C)C | C16H26N4O2
product | 7-cyclopentyl-2-[5-(3,3-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 20 mg, 25% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CC(NCC2)(C)C)N1C1CCCC1)C | C25H34N8O
